US06133258
The reaction procedure of Example 11 was followed except that 428 mg of 2-(4-methoxyanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 14 mg of lithium hydride and 0.094 ml of methyl iodide were used. As a result, 200 mg of 2-[(4-methoxyphenyl)imino]-3-methyl-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 35 mg of 2-[N-(4-methoxyphenyl)-N-methylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance.

reactant | 2-(4-methoxyanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 428 mg | COC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H11N3O2S
reactant | lithium hydride | 14 mg | [H-].[Li+]
reactant | methyl iodide | 0.094 ml | CI | CH3I
product | 2-[(4-methoxyphenyl)imino]-3-methyl-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 200 mg | COC1=CC=C(C=C1)N=C1SC2=C(C(N1C)=O)C=CC=N2 | C15H13N3O2S
